US04122186
(1) p-Methoxybenzylthio-acetic acid
A solution of 18.24 g (0.24 mol) of thiourea in 104 ml of 48% strength hydrobromic acid and 20 ml of water is introduced into a 1 liter three-necked flask equipped with a magnetic stirrer and a condenser. The mixture is heated at 60° C. and 27.6 g (0.2 mol) of p-methoxybenzyl alcohol are introduced. The temperature is raised to 95° C. and the mixture is then allowed to cool. Crystals of thiouronium salt appear; these are filtered off and suction-drained. The precipitate obtained above is introduced into a 500 ml three-necked flask together with 60 ml of NaOH. The mixture is heated to 70° C. and a solution of 15.6 g (0.164 mol) of chloroacetic acid dissolved in 30 ml of water is added dropwise. The whole is then heated under reflux for half an hour, after which it is cooled. The mixture is acidified with 3 N HCl, the oil obtained is taken up in methylene chloride and washed with a dilute sodium bicarbonate solution and (? the aqueous phase) is filtered over charcoal and again acidified with 3 N HCl to precipitate p-methoxybenzylthioacetic acid. 25.7 g (60% yield) of the said acid (melting point = 60° C.) are collected.

reactant | thiourea | 0.24 mol, 18.24 g | NC(=S)N | CH4N2S
reactant | hydrobromic acid | Br | BrH
reactant | p-methoxybenzyl alcohol | 0.2 mol, 27.6 g | COC=1C=CC(=CC1)CO | C8H10O2
reactant | thiouronium | [NH2+]=C(S)N
reactant | NaOH | 60 ml | [OH-].[Na+]
reactant | chloroacetic acid | 0.164 mol, 15.6 g | ClCC(=O)O | C2H3ClO2
reactant | HCl | 3 N | Cl | ClH
solvent | water | 30 ml | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | water | 20 ml | O | H2O
product | p-Methoxybenzylthio-acetic acid | 25.7 g, 60% yield | COC1=CC=C(CCC(=S)O)C=C1 | C10H12O2S
